US08445510B2
3-[1-(2,6-Dichloro-3-fluorophenyl)ethyl]-5-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine
To a stirred mixture of 5-bromo-3-[1-(2,6-dichloro-3-fluorophenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine (500.0 mg, 1.288 mmol), potassium acetate (379 mg, 3.86 mmol), bis(pinacolato)diboron (425.3 mg, 1.675 mmol) in 1,4-dioxane (15 mL) was added (1,1′-bis-(diphenylphosphino)ferrocene) palladium dichloride (47.10 mg, 0.0644 mmol) under Nitrogen atmosphere. The mixture was then stirred at 85° C. overnight. LC-MS indicated completion of reaction. Solvents were then removed under reduced pressure to give a residue which was then purified by flash chromatography (eluent: 25% ethyl acetate in DCM). 1H NMR (400 MHz, CD3OD): δ=1.20 (s, 12H), 1.86 (d, J=7.3 Hz, 3H), 5.27 (q, J=7.0 Hz, 1H), 7.17 (t, J=8.7 Hz, 1H), 7.33 (d, J=1.3 Hz, 1H), 7.40 (br. s., 1H), 7.75 (d, J=1.5 Hz, 1H), 8.43 (d, J=1.5 Hz, 1H). MS (ES+): m/z=434.02, 435.06, 437.07, 438.11 [MH]+. HPLC: tR=4.22 min (ZQ3, polar—5 min).

reactant | 5-bromo-3-[1-(2,6-dichloro-3-fluorophenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine | 1.288 mmol, 500.0 mg | BrC=1C=C2C(=NC1)NC=C2C(C)C2=C(C(=CC=C2Cl)F)Cl | C15H10BrCl2FN2
reactant | potassium acetate | 3.86 mmol, 379 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.675 mmol, 425.3 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | (1,1′-bis-(diphenylphosphino)ferrocene) palladium dichloride | 0.0644 mmol, 47.10 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-[1-(2,6-Dichloro-3-fluorophenyl)ethyl]-5-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | ClC1=C(C(=CC=C1F)Cl)C(C)C1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C21H22BCl2FN2O2
